US06214882B1
1.35 g (4.9 mmol) of α-azidomethyl-2-chloro-5-sulphamoylbenzenemethanol, 90 ml of anhydrous pyridine and 9.67 g (29.0 mmol) of triphenylphosphine on a carrier are introduced into a 250-ml round-bottomed flask. The mixture is stirred at room temperature for 9 hours, 100 ml of 28% aqueous ammonia are then added, and the suspension is stirred for 16 hours and filtered. The filtrate is concentrated and the residue is recrystallized in methanol. 0.523 g of α-aminomethyl-2-chloro-5-sulphamoylbenzenemethanol is obtained. 1 equivalent of methanesulphonic acid in 2M solution in methanol is added. After recrystallization in methanol and diethyl ether and drying in a desiccator under vacuum over phosphorus pentoxide, 0.439 g of α-aminomethyl-2-chloro-5-sulphamoylbenzenemethanol methanesulphonate is obtained.

reactant | α-azidomethyl-2-chloro-5-sulphamoylbenzenemethanol | 4.9 mmol, 1.35 g | N(=[N+]=[N-])CC(O)C1=C(C=CC(=C1)S(N)(=O)=O)Cl | C8H9ClN4O3S
reactant | triphenylphosphine | 29.0 mmol, 9.67 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | ammonia | 100 ml | N | H3N
solvent | pyridine | 90 ml | N1=CC=CC=C1 | C5H5N
product | α-aminomethyl-2-chloro-5-sulphamoylbenzenemethanol | 0.523 g | NCC(O)C1=C(C=CC(=C1)S(N)(=O)=O)Cl | C8H11ClN2O3S
